US04327095
Triethylamine (34.5 cc) is added, at about 15° C., to a suspension of 6-hydroxy-3-methoxy-7-(7-methoxy-1,8-naphthyridin-2-yl)-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole (10.7 g) and 1-chlorocarbonyl-4-methylpiperazine hydrochloride (16.4 g) in anhydrous methylene chloride (440 cc), and anhydrous pyridine (195 cc) is then added to the resulting mixture. The reaction mixture is heated for 3 hours at 45° C. After cooling, the mixture is diluted by adding methylene chloride (300 cc). The organic phase is washed three times with distilled water (total 600 cc), dried over anhydrous sodium sulphate and evaporated. The resulting residue (41.0 g) is treated with boiling methanol (150 cc). After cooling the mixture for 1 hour at 2° C., the crystals are filtered off, washed twice with ice-cooled methanol (total 40 cc) and dried under reduced pressure (20 mm Hg) at 20° C. The resulting product (9.0 g; m.p. 215° C.) is dissolved in boiling methanol (175 cc). After cooling the solution for 2 hours at 2° C., the resulting crystals are filtered off, washed twice with ice-cooled methanol (total 20 cc) and dried under reduced pressure (0.2 mm Hg) at 50° C. 3-Methoxy-7-(7-methoxy-1,8-naphthyridin-2-yl)-6-(4-methylpiperazin-1-yl)carbonyloxy-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole (7.4 g), melting at 218° C., is obtained.

reactant | Triethylamine | 34.5 cc | C(C)N(CC)CC | C6H15N
reactant | 6-hydroxy-3-methoxy-7-(7-methoxy-1,8-naphthyridin-2-yl)-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole | 10.7 g | OC1C2=C(C(N1C1=NC3=NC(=CC=C3C=C1)OC)=O)SCC(CS2)OC | C17H17N3O4S2
reactant | 1-chlorocarbonyl-4-methylpiperazine hydrochloride | 16.4 g | Cl.ClC(=O)N1CCN(CC1)C
reactant | pyridine | 195 cc | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 440 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 cc | C(Cl)Cl | CH2Cl2
product | 3-Methoxy-7-(7-methoxy-1,8-naphthyridin-2-yl)-6-(4-methylpiperazin-1-yl)carbonyloxy-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole | 7.4 g | COC1CSC2=C(C(N(C2OC(=O)N2CCN(CC2)C)C2=NC3=NC(=CC=C3C=C2)OC)=O)SC1 | C23H27N5O5S2
